US06638929B2
A mixture of 8-(benzyloxy)-4-[(2-chloro-4-fluoro-5-methoxyphenyl)amino]-7-methoxybenzo[g]quinoline-3-carbonitrile (1.88 g, 3.70 mmol) and 280 mg of 15% Pd on carbon in a mixture of 50 mL of methylene chloride and 70 mL of N,N-dimethylformamide is hydrogenated at 50-40 psi for 15 hours. The mixture is filtered through Celite and concentrated in vacuo to a small volume. The yellow solid is collected by filtration to provide 1.50 g (95%) of 4-[(2-chloro-4-fluoro-5-methoxyphenyl)amino]-8-hydroxy-7-methoxybenzo[g]quinoline-3-carbonitrile, mp 239-242° C. dec.

reactant | 8-(benzyloxy)-4-[(2-chloro-4-fluoro-5-methoxyphenyl)amino]-7-methoxybenzo[g]quinoline-3-carbonitrile | 3.70 mmol, 1.88 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C3C(=C(C=NC3=C2)C#N)NC2=C(C=C(C(=C2)OC)F)Cl)C=C1OC | C29H21ClFN3O3
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
catalyst | Pd on carbon | 280 mg | [Pd] | Pd
product | 4-[(2-chloro-4-fluoro-5-methoxyphenyl)amino]-8-hydroxy-7-methoxybenzo[g]quinoline-3-carbonitrile | 1.50 g, 95% | ClC1=C(C=C(C(=C1)F)OC)NC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)O)OC)C#N | C22H15ClFN3O3
